US05025030
31.8 g of 2-[2-(4-chlorophenyl)-ethin-1-yl]-2-(2,3,3-trifluoro- 2-chloro-1-methylcyclobut-1-yl)-oxirane are added at room temperature to a stirred mixture of 6.4 g of 1,2,4-triazole, 12.6 g of ground potassium carbonate and 300 ml of acetonitrile. The reaction mixture is refluxed for 12 hours, and then cooled and filtered. The filtrate is concentrated under reduced pressure, and the remaining residue is purified by column chromatography (ethyl acetate) on silica gel. 29 g (75.5% of theory) of 1-(4-chlorophenyl)-3-(2,3,3-trifluoro-2-chloro-1-methyl-cyclo-but-1-yl)-4-(1,2,4-triazol-1-yl)-but-1-in-3-ol are obtained in form of a viscous oil.

reactant | 2-[2-(4-chlorophenyl)-ethin-1-yl]-2-(2,3,3-trifluoro- 2-chloro-1-methylcyclobut-1-yl)-oxirane | 31.8 g | ClC1=CC=C(C=C1)C#CC1(OC1)C1(C(C(C1)(F)F)(Cl)F)C | C15H11Cl2F3O
reactant | 1,2,4-triazole | 6.4 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 1-(4-chlorophenyl)-3-(2,3,3-trifluoro-2-chloro-1-methyl-cyclo-but-1-yl)-4-(1,2,4-triazol-1-yl)-but-1-in-3-ol | 29 g, 75.5% | ClC1=CC=C(C=C1)C#CC(CN1N=CN=C1)(O)C1(C(C(C1)(F)F)(Cl)F)C | C17H14Cl2F3N3O
